US09388166B2
A solution of [2-(4-iodo-2-methoxy-pyridin-3-yl)-1H-indol-6-yl]-methyl-carbamic acid tert-butyl ester (520 mg, 1.08 mmol) in CH2Cl2 (5 mL) was added 2,2,2-trifluoroacetic acid (1 mL) at 25° C. The solution was heated to reflux for 3 h. The solution was concentrated in vacuo and poured into water. The aqueous phase was extracted three times with ethyl acetate and the combined organic layers were washed with brine and dried over magnesium sulfate. Filtration followed by concentration in vacuo gave a brown solid. Flash chromatography (70/30 hexanes/ethyl acetate) afforded [2-(4-iodo-2-methoxy-pyridin-3-yl)-1H-indol-6-yl]-methyl-amine (380 mg, 92%) as a white product. MH+ 379.9.

reactant | [2-(4-iodo-2-methoxy-pyridin-3-yl)-1H-indol-6-yl]-methyl-carbamic acid tert-butyl ester | 1.08 mmol, 520 mg | C(C)(C)(C)OC(N(C)C1=CC=C2C=C(NC2=C1)C=1C(=NC=CC1I)OC)=O | C20H22IN3O3
reactant | 2,2,2-trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | [2-(4-iodo-2-methoxy-pyridin-3-yl)-1H-indol-6-yl]-methyl-amine | 380 mg, 92% | IC1=C(C(=NC=C1)OC)C=1NC2=CC(=CC=C2C1)NC | C15H14IN3O
